US04166734
N-((methylsulfonyl)oxy-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide
2.8 g of N-hydroxy-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide in 50 ml methylene chloride was added at room temperature to a stirred suspension of the product prepared from 1.4 g methane sulfonyl chloride and 0.8 g N-methylimidazole. After 3 hours the resulting mixture was poured into water. The methylene chloride layer was evaporated to dryness and the residue was crystallized from ethanol to give a 0.8 g (22% yield) of product as a yellow solid; m.p. 145° C. with decomposition, (d,1) isomer form.

reactant | N-hydroxy-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide | 2.8 g | ON(C(C(C)NC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-])=O)C | C11H14N4O6
reactant | methane sulfonyl chloride | 1.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-methylimidazole | 0.8 g | CN1C=NC=C1 | C4H6N2
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (methylsulfonyl)oxy-N-methyl-2-(4-methyl-2,6-dinitrophenylamino)propanamide | 0.8 g, 22% yield | CS(=O)(=O)OC(C(=O)NC)(C)NC1=C(C=C(C=C1[N+](=O)[O-])C)[N+](=O)[O-] | C12H16N4O8S
